US08076486B2
2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-propionic acid
A mixture of 2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-propionic acid ethyl ester (45 mg, 0.09 mmol, 1.0 eq) and LiOH (5 mg, 0.18 mmol, 2 eq) in THF-H2O (1:1) (0.5 mL) was stirred at RT for 2 hr. The pH was adjusted to pH 5 with 1N HCl and the mixture was diluted with EtOAc, washed with brine, and dried over anhydrous MgSO4. Filtration and solvent removal resulted in a residue that was washed with ether to give rise to the desired product (41 mg). LC/MS (Method A) [5.04 min; 470(M+1)]

reactant | 2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-propionic acid ethyl ester | 0.09 mmol, 45 mg, 1.0 eq | C(C)OC(C(C)NC=1OC(=NN1)C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O | C18H17FIN5O3
reactant | LiOH | 0.18 mmol, 5 mg, 2 eq | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF H2O | 0.5 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-{5-[3-(2-Fluoro-4-iodo-phenylamino)-pyridin-4-yl]-[1,3,4]oxadiazol-2-ylamino}-propionic acid | 41 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C1=NN=C(O1)NC(C(=O)O)C | C16H13FIN5O3
